US07423035B2
5-hydroxy-8-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one
Reaction of 329 mg (1 mmol) 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one and 177 mg (1 mmol) 1-(4-methoxy-benzyl)-cyclopropylamine according to general method 3. Yield: 39 mg (8%, trifluoroacetate); mass spectroscopy: [M+H]+=385.

reactant | 5-benzyloxy-8-(2,2-dihydroxy-acetyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 329 mg | C(C1=CC=CC=C1)OC1=CC=C(C2=C1NC(CO2)=O)C(C(O)O)=O | C17H15NO6
reactant | 1-(4-methoxy-benzyl)-cyclopropylamine | 1 mmol, 177 mg | COC1=CC=C(CC2(CC2)N)C=C1 | C11H15NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 5-hydroxy-8-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-4H-benzo[1,4]oxazin-3-one | OC1=CC=C(C2=C1NC(CO2)=O)C(CNC2(CC2)CC2=CC=C(C=C2)OC)O | C21H24N2O5
